US04318913
5-[[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazole-3-carbamic acid, ethyl ester
A mixture of 1-methyl-N5 -[3-[3-[(dimethylamino) methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine (2.0 g), ethyl chloroformate (0.72 g) and dimethylformamide (30 ml) was stirred at 25° for 12 h. The suspension was diluted with water (100 ml) and extracted with ethyl acetate. The organic extracts were evaporated to leave the title compound as a pale yellow oil (2.1 g). TLC silica, methanol/0.88 amonia 80:1, Rf 0.61. NMR (D2O 2.52 t (1H); 2.8-3 m (3H); 5.42 s (2H); 5.6-6 m (6H); 6.48 t (2H); 6.5 s (3H); 7.09 s (6H); 7.88 m (2H); 8.67 t (3H).

reactant | 1-methyl-N5 -[3-[3-[(dimethylamino) methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 2.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)N | C15H24N6O
reactant | ethyl chloroformate | 0.72 g | ClC(=O)OCC | C3H5ClO2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-[[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazole-3-carbamic acid, ethyl ester | 2.1 g | CN(C)CC=1C=C(OCCCNC2=NC(=NN2C)NC(=O)OCC)C=CC1 | C18H28N6O3
